US09445594B2
Preparation of 2-isopropyl-5-methylaniline (C8)
To 4-methyl-2-nitro-1-(prop-1-en-2-yl)benzene (0.986 g, 5.56 mmol) in a 100 mL round-bottomed flask equipped with a stir bar was added ethyl acetate (55.6 mL) and palladium on carbon (1.18 g, 0.556 mmol). The reaction was evacuated and backfilled with hydrogen (balloon). The reaction was stirred under an atmosphere of hydrogen overnight. The reaction mixture was filtered through a pad of Celite® and concentrated providing the title compound as a clear and colorless oil (0.788 g, 95%): IR (thin film) 3464 (m), 3372 (m), 3011 (m), 2959 (s), 2869 (m), 1621 (m), 1575 (m), 1509 (m) cm−1; 1H NMR (400 MHz, CDCl3) δ 7.03 (d, J=7.8 Hz, 1H), 6.61 (dd, J=7.8, 1.7 Hz, 1H), 6.54-6.50 (m, 1H), 3.59 (bs, 2H), 2.87 (hept, J=6.8 Hz, 1H), 2.24 (s, 3H), 1.24 (d, J=6.8 Hz, 6H); 13C NMR (101 MHz, CDCl3) δ 143.14, 136.16, 129.82, 125.33, 119.79, 116.55, 99.97, 27.36, 22.41, 20.96.

reactant | 4-methyl-2-nitro-1-(prop-1-en-2-yl)benzene | 5.56 mmol, 0.986 g | CC1=CC(=C(C=C1)C(=C)C)[N+](=O)[O-] | C10H11NO2
catalyst | palladium on carbon | 0.556 mmol, 1.18 g | [Pd] | Pd
solvent | ethyl acetate | 55.6 mL | C(C)(=O)OCC | C4H8O2
product | 2-isopropyl-5-methylaniline | C(C)(C)C1=C(N)C=C(C=C1)C | C10H15N
